US08431563B2
A 25-mL round-bottomed flask was cooled to 0° C. and charged with 2-(2-((2S)-2-((6-(benzyloxy)-3-oxa-8-azabicyclo[3.2.1]oct-8-yl)methyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)-5-pyrimidinyl)-1,1,1-trifluoro-2-propanol (endo) (170 mg, 0.26 mmol) and CH2Cl2 (5 mL). BCl3 (1M in CH2Cl2, 4.20 mL, 4.20 mmol) was added slowly. After 15 min at 0° C., the reaction was carefully quenched with MeOH and concentrated. The resultant foam was then recrystallized from MeOH/ether to yield an off-white solid which was purified via column chromatography (12 g silica gel, 0 to 10% MeOH in CH2Cl2) to give 8-(((2S)-4-(2-thiophenylsulfonyl)-1-(5-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)-2-pyrimidinyl)-2-piperazinyl)methyl)-3-oxa-8-azabicyclo[3.2.1]octan-6-ol (120 mg) (endo) as a mixture of four isomers.

reactant | 2-(2-((2S)-2-((6-(benzyloxy)-3-oxa-8-azabicyclo[3.2.1]oct-8-yl)methyl)-4-(2-thiophenylsulfonyl)-1-piperazinyl)-5-pyrimidinyl)-1,1,1-trifluoro-2-propanol | 0.26 mmol, 170 mg | C(C1=CC=CC=C1)OC1C2COCC(C1)N2C[C@@H]2N(CCN(C2)S(=O)(=O)C=2SC=CC2)C2=NC=C(C=N2)C(C(F)(F)F)(C)O | C29H34F3N5O5S2
reactant | BCl3 | 4.20 mmol, 1M, 4.20 mL | B(Cl)(Cl)Cl | BCl3
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 8-(((2S)-4-(2-thiophenylsulfonyl)-1-(5-(2,2,2-trifluoro-1-hydroxy-1-methylethyl)-2-pyrimidinyl)-2-piperazinyl)methyl)-3-oxa-8-azabicyclo[3.2.1]octan-6-ol | 120 mg | S1C(=CC=C1)S(=O)(=O)N1C[C@@H](N(CC1)C1=NC=C(C=N1)C(C(F)(F)F)(C)O)CN1C2COCC1C(C2)O | C22H28F3N5O5S2
